data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_76961_1,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])/[C:5](=[N:7]\[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][H:8])([H:9])[H:10]>>[C:1]([O:6][H:8])([N:7]([C:3]([H:15])([H:16])[H:17])/[C:5](=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10],67.34706499996463
MR_152776_1,[C:1](/[C:4]([N:3]([C:7](=[C:8]([H:20])[H:21])[H:13])[O:9][H:10])=[C:5](\[C:2]([H:17])([H:18])[H:19])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:3]\[O:9][H:10])[C@:5]([C:2]([H:17])([H:18])[H:19])([N:6]([H:11])[H:12])[C:7](=[C:8]([H:20])[H:21])[H:13])([H:14])([H:15])[H:16],69.0752000000245
MR_440629_1,[C:1]([C:4]([C:2]([H:14])([H:17])[H:18])=[N:8]/[C:3](=[C:6](\[N:5]([H:10])[H:11])[H:12])[O:7][H:9])([H:13])([H:15])[H:16]>>[C:1]([C:4]1([C:2]([H:14])([H:17])[H:18])[C:6]([N:5]([H:10])[H:11])([H:12])[C:3]([O:7][H:9])=[N:8]1)([H:13])([H:15])[H:16],43.28432249997249
MR_574128_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[N:4]([H:9])[O:8][C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]1[N:7]([H:11])[H:12]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:6](/[C:5]1([C:2]([H:13])([H:14])[H:15])[N:4]([H:9])[O:8]1)[N:7]([H:11])[H:12])[H:10],68.59892750001421
MR_370911_1,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:7]([H:11])[H:12])([C:8](=[C:6]([C:3]([H:17])([H:18])[H:22])[C:4]([H:19])([H:20])[H:21])[H:13])[H:10]>>[C:1]1([N:7]([H:11])[H:12])([H:10])[C:6]([C:3]([H:17])([H:18])[H:22])([C:4]([H:19])([H:20])[H:21])[C:8]1([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[H:13],69.16869750000245
MR_405814_1,[C:1]([C:3]([N:2]([O:5][H:8])[O:6][H:7])=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([N:2]([C:3](=[C:4]([H:12])[H:13])[O:5][H:8])[O:6][H:7])([H:9])([H:10])[H:11],10.87269250001441
MR_123067_2,[C:1](/[N:9]=[C:2](\[C:3](=[C:4]([N:7]([H:14])[H:15])[N:8]([H:16])[H:17])[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])([H:18])([H:19])[H:20]>>[C:1]([N:9]1[C:2]([N:5]([H:10])[H:11])=[C:3]([N:6]([H:12])[H:13])[C:4]1([N:7]([H:14])[H:15])[N:8]([H:16])[H:17])([H:18])([H:19])[H:20],42.48237749999973
MR_568243_0,[C@@:1]([C@@:2]([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:11])([N:4]([H:12])[H:13])([O:5][O:6][H:8])[H:10]>>[C@:1]([C@:2]([C:3]([H:14])([H:15])[H:16])([O:5][O:6][H:8])[H:11])([N:4]([H:12])[H:13])([O:7][H:9])[H:10],63.68748500000152
MR_652726_2,[C:1]1([C:4]([O:5][H:7])=[O:6])([H:10])[N:2]([H:8])[N:3]1[H:9]>>[C:1](\[N:2]([C:4]([O:5][H:7])=[O:6])[H:8])(=[N:3]\[H:9])[H:10],64.77933500002706
MR_252711_0,[C:1](/[C:3]([O:5][H:9])=[N:6]\[C:2]([O:4][H:8])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C@@:3]1([O:5][H:9])[N:6]=[C:2]([O:4][H:8])[O:7]1)([H:10])([H:11])[H:12],34.41335500000491
MR_8530_1,[C:1]([C:2]([N:7]=[C:5]([H:16])[H:17])([H:11])[H:12])([N:4]([H:9])[H:10])([O:6][C:3]([H:13])([H:14])[H:15])[H:8]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:2]([H:11])([H:12])[N:7]1[C:5]([O:6][C:3]([H:13])([H:14])[H:15])([H:16])[H:17],50.45601999998567
MR_688569_1,[C:1]([C:2]([C:4](/[C:3](=[N:8]\[H:12])[H:13])([H:14])[H:15])=[O:5])([O:6][H:9])([O:7][H:10])[H:11]>>[C:1]([C:2](=[C:4]([H:14])[H:15])[O:5]/[C:3](=[N:8]\[H:12])[H:13])([O:6][H:9])([O:7][H:10])[H:11],63.09073250001006
MR_556666_2,[C:1](=[C:3](\[N:6]=[N:7]/[H:13])[O:8][C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(\[N:5]([H:11])[H:12])[H:10]>>[C:1]([C:3](/[N:6]=[N:7]\[H:13])=[O:8])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:5]([H:11])[H:12])[H:10],45.69580499998352
MR_137049_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:12])([H:13])[H:17])([C:6]([C:5]([H:18])([H:19])[H:20])=[O:8])[O:7][C:2]([H:9])([H:10])[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:12])([H:13])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([O:7][C:2]([H:9])([H:10])[H:11])=[O:8],68.80474749999394
MR_358095_1,[C:1](/[C:3]([N:5]([H:10])[H:11])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:14])([O:7][N:4]([H:8])[H:9])([H:12])[H:13]>>[C:1](=[C:3]([N:5]([H:10])[H:11])[C:6]([C:2]([H:15])([H:16])[H:17])([O:7][N:4]([H:8])[H:9])[H:14])([H:12])[H:13],49.70301999999634
MR_316280_0,[C:1]([O:3][O:5][C:2]([H:10])([H:11])[H:12])([O:4][O:6][H:7])([H:8])[H:9]>>[C:1]([O:3][O:4][O:6][H:7])([O:5][C:2]([H:10])([H:11])[H:12])([H:8])[H:9],64.0526899999712
MR_292091_0,[C:1]([C:2]([H:16])([H:17])[H:18])([N:5]([C:3]([H:19])([H:20])[H:21])[H:10])([N:7]([H:12])[H:13])/[C:8](=[C:9](/[N:6]([C:4]([H:22])([H:23])[H:24])[H:11])[H:15])[H:14]>>[C:1](\[C:2]([H:16])([H:17])[H:18])([N:7]([H:12])[H:13])=[C:8](\[C:9]([N:5]([C:3]([H:19])([H:20])[H:21])[H:10])([N:6]([C:4]([H:22])([H:23])[H:24])[H:11])[H:15])[H:14],50.32299000000052
MR_598890_0,[C:1]([C:4](/[C:3](=[N:2]\[O:6][H:9])[O:8][H:10])=[N:7]\[H:11])([N:5]([H:12])[H:13])([H:14])[H:15]>>[C:1](/[C:4]([C:3]([N:2]([O:6][H:9])[H:10])=[O:8])=[N:7]\[H:11])([N:5]([H:12])[H:13])([H:14])[H:15],31.76467749998636
MR_584629_1,[C:1]1([N:4](/[C:5]([N:6]([H:12])[H:13])=[N:8]/[H:14])[H:9])([H:10])[C:2]([C:3]([H:15])([H:16])[H:17])([H:11])[O:7]1>>[C@:1]1([N:4](/[C:5]([N:6]([H:12])[H:13])=[N:8]/[H:14])[H:9])([H:10])[C@:2]([C:3]([H:15])([H:16])[H:17])([H:11])[O:7]1,65.50221499998543
